US06531502B1
A mixture of 3-tert-butyl-4-(2-morpholin-4-ylethoxy)-benzaldehyde (0.25 g), 6-acetamido-2-oxindole (0.16 g) and piperidine (0.43 ml) in ethanol (3 ml) was held in a sealed tube at 100° C. for 12 hours. The reaction was cooled, added to ethyl acetate (250 ml), washed with 1N hydrochloric acid (100 ml) and brine (100 ml), dried with magnesium sulfate and concentrated. Some product went into the acid wash, so this was basified with solid sodium bicarbonate to pH 9 and extracted with ethyl acetate (2×150 ml). The organic layers were dried over magnesium sulfate, combined with the oil from the first crop of product and concentrated. Chromatography (silica, 40% ethyl acetate followed by 5-10% methanol/methylene chloride) afforded 100 mg 27%) of N-{3-[3-tert-butyl-4-(2-morpholin-4-ylethoxy)benzylidene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-acetamide as a yellow solid.

reactant | 3-tert-butyl-4-(2-morpholin-4-ylethoxy)-benzaldehyde | 0.25 g | C(C)(C)(C)C=1C=C(C=O)C=CC1OCCN1CCOCC1 | C17H25NO3
reactant | 6-acetamido-2-oxindole | 0.16 g | C(C)(=O)NC1=CC=C2CC(NC2=C1)=O | C10H10N2O2
reactant | piperidine | 0.43 ml | N1CCCCC1 | C5H11N
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-{3-[3-tert-butyl-4-(2-morpholin-4-ylethoxy)benzylidene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-acetamide | C(C)(C)(C)C=1C=C(C=C2C(NC3=CC(=CC=C23)NC(C)=O)=O)C=CC1OCCN1CCOCC1 | C27H33N3O4
